US08071597B2
Intermediate 35: N-(3-Chloro-quinoxalin-2-yl)-3-fluoro-benzenesulfonamide (Formula II)
3-fluorobenzenesulfonamide (250 mg, 1.4 mmol), 2,3-dichloroquinoxaline (284.1 mg, 1.4 mmol) and dry K2CO3 (198.4 mg, 1.4 mmol) are dissolved in dry DMF (0.8 ml) and heated up to 135° C. in a sealed tube for 2.5 h. When TLC confirms the completion of the reaction, the reaction mixture is cooled down to rt and quenched by addition of water (4 ml) and AcOH (0.03 ml). The residue obtained is triturated and the resulting solid is filtered and washed with water until neutral pH then dried under vacuum to afford 400 mg (83%) of the title compound as an off white solid. 1H NMR (DMSO-d6) δ 12.8-10.9 (br s, 1H), 8.05-7.62 (m, 7H), 7.54 (td, J=2.0, 8.5 Hz, 1H). HPLC (max plot) 94%; Rt 3.79 min. LC/MS: (ES+): 338.1, (ES−): 336.1.

reactant | 3-fluorobenzenesulfonamide | 1.4 mmol, 250 mg | FC=1C=C(C=CC1)S(=O)(=O)N | C6H6FNO2S
reactant | 2,3-dichloroquinoxaline | 1.4 mmol, 284.1 mg | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | K2CO3 | 1.4 mmol, 198.4 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
product | N-(3-Chloro-quinoxalin-2-yl)-3-fluoro-benzenesulfonamide | 400 mg, 83% | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)F | C14H9ClFN3O2S
